US05663163
To a solution of 7β-amino-3-[2-methyl-3-methoxycarbonylmethylamino-1-pyrazolio]methyl-3-cephem-4-carboxylate trihydrochloride (0.7 g) and N-(trimethylsilyl)acetamide (1.87 g) in tetrahydrofuran (14 ml) was added (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetyl chloride hydrochloride (0.37 g) under ice-cooling and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into ethyl acetate (140 ml) and the resultant powder was collected by filtration. The powder was dissolved in ice-water and adjusted to pH 13 with 1N aqueous sodium hydroxide. After stirring for 20 minutes under ice-cooling, the solution was adjusted to pH 2 with 3N hydrochloric acid and subjected to column chromatography on "Diaion HP-20" using 5% aqueous isopropyl alcohol as an eluent. Fractions containing the object compound were combined, evaporated in vacuo to remove isopropyl alcohol and lyophilized to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(3-carboxymethylamino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer) (0.24 g).

reactant | 7β-amino-3-[2-methyl-3-methoxycarbonylmethylamino-1-pyrazolio]methyl-3-cephem-4-carboxylate trihydrochloride | 0.7 g | Cl.Cl.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)NCC(=O)OC)C)C(=O)[O-])C1=O
reactant | N-(trimethylsilyl)acetamide | 1.87 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | (Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetyl chloride hydrochloride | 0.37 g | Cl.NC1=NC(=NS1)/C(/C(=O)Cl)=N/OC
reactant | ethyl acetate | 140 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(3-carboxymethylamino-2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 0.24 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)NCC(=O)O)C)C(=O)[O-])C1=O)=NOC | C19H21N9O7S2
